US03962307
2-Bromo-1,4-diisopropylbenzene
To a one-liter flask containing 243 parts of p-diisopropylbenzene, 300 parts of carbon tetrachloride and 2.5 parts of iron powder is added dropwise 240 parts of bromine and sufficient carbon tetrachloride to make 180 parts of solution during seven hours at a temperature of -5°C. The solution is decanted from the residual ferric bromide and washed twice with 3N HCl. The carbon tetrachloride is removed under reduced pressure. A solution of 40 parts potassium hydroxide in two hundred parts of ethyl alcohol is added and refluxed 0.5 hr. The solution is poured into water, separated, washed with dilute hydrochloric acid, dilute sodium bisulfite solution and water, and dried. The solvent is removed and the 2-bromo-1,4-diisopropylbenzene distilled, bp 142°C at 25 mm, nD25 1.5292.

reactant | p-diisopropylbenzene | C(C)(C)C1=CC=C(C=C1)C(C)C | C12H18
reactant | bromine | BrBr | Br2
catalyst | iron | [Fe] | Fe
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-Bromo-1,4-diisopropylbenzene | BrC1=C(C=CC(=C1)C(C)C)C(C)C | C12H17Br
